Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:6].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.67805166395
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:8](\[H:9])[O:10][H:11].[H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-4.87638513511
[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.06323442497
[C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-1.7547761795900003
[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.89548771637
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],1.4264906535100002
[C:4]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11],-7.0671313818
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5],4.3851340324
[H:1][C:2]([H:3])=[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4][C:6]([C:5])([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.589466791131
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.92892088057
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])[H:12]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])[O:9][C:10]([H:11])[H:12],6.7235361649000005
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],1.5512014932499998
[C:1]#[C:2][C:3]([H:4])[O:5][O:6]>>[C:1]#[C:2][C:3]1([H:4])[O:5][O:6]1,0.0815277588698999
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([H:5])#[C:8][H:9].[O:1][C:4](=[O:3])[C:6]([H:7])([H:10])[H:11],1.29578382918
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7][H:8]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.66024252771
[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.85399067265
[H:3].[O:1]=[C:2]=[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.80223228532
[H:6].[O:1]=[C:2]([O:3][C:4]([H:5])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.33159108427
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.51635848151
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6][O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6][O:7][H:8],-3.1958584773000003
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14].[H:10]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.6081500482
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.44614725954
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],7.69305493377
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.94110772241
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:9]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.960985711509999
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:4]([H:5])([H:6])=[C:7][O:8][H:9].[O:1][C:2][C:3],2.58916439959
[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.151649623
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]#[C:9][H:10]>>[C:8]#[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],6.285037090580001
[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.8877525764100005
